US06825375B2
A 1M aqueous solution of sodium hydroxide in an amount of 1.0 mL was added dropwise to 0.17 g of (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylate while being ice-cooled. The mixture was stirred for 2.5 hours at the same temperature. The pH of the reaction mixture was adjusted to 1 with concentrated hydrochloric acid, followed by extractions with chloroform three times. The organic layers were combined, and the combined organic layer was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure, thereby yielding 0.15 g of (1RS,5RS,6RS)-6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylic acid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | (1RS,5RS,6RS)ethyl 6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylate | 0.17 g | FC1(C2CCC(C12)=O)C(=O)OCC | C9H11FO3
reactant | hydrochloric acid | Cl | ClH
product | (1RS,5RS,6RS)-6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylic acid | 0.15 g | FC1(C2CCC(C12)=O)C(=O)O | C7H7FO3
